US07655666B2
A solution of N-(6-nitro-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide (109 mg) in 1:1 EtOH:CH3CO2H (6 mL) was hydrogenated in the presence of 10% palladium on carbon (30 mg). After disappearance of the starting material (TLC control), the reaction mixture was diluted with EtOH and CH3CO2H and slightly warmed up. The catalyst was filtered off and the filtrate concentrated to dryness. Trituration of the residue with EtOAc gave N-(6-amino-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide (61 mg, 61%) as a yellow powder, m.p. 240° C. (decomp.). 1H-NMR (DMSO-d6, 400 MHz): 3.12 (s, 3H), 5.66 (s, 2H), 7.24 (s, 1H), 7.46 (s, 1H), 10.3 (br s, 1H), 11.4 (br s, 1H).

reactant | N-(6-nitro-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide | 109 mg | [N+](=O)([O-])C=1C=C2C(N(C(NC2=CC1C(F)(F)F)=O)NS(=O)(=O)C)=O | C10H7F3N4O6S
catalyst | palladium on carbon | 30 mg | [Pd] | Pd
solvent | EtOH | CCO | C2H6O
solvent | CH3CO2H | CC(=O)O | C2H4O2
solvent | CH3CO2H | 6 mL | CC(=O)O | C2H4O2
product | N-(6-amino-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide | 61 mg, 61% | NC=1C=C2C(N(C(NC2=CC1C(F)(F)F)=O)NS(=O)(=O)C)=O | C10H9F3N4O4S
